US07902201B2
g) 5-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid isopropylamide
As described for example 15, 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester (100 mg, 0.29 mmol), instead of 5-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester, was converted to the title compound (1.3 mg, 1%) which was obtained as a light yellow solid. MS: m/e=431.1 [M+OAc]+.

reactant | 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | 0.29 mmol, 100 mg | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C16H12ClN3O4
reactant | 5-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C16H12FN3O4
product | 5-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid isopropylamide | 1.3 mg, 1% | C(C)(C)NC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C18H17ClN4O3
